US04492693
To a stirred suspension of 1.1 g of 5% palladium on carbon in 100 ml of ethanol under 60 psi of hydrogen was added in one portion a solution of 1.1 g of ethyl α-oxo-α-(6-nitro-3-benzothienyl)acetate in 25 ml of tetrahydrofuran. The reaction mixture was stirred at 25° C. under 60 psi of hydrogen for forty-five minutes, and then the mixture was filtered and the solvent was evaporated from the filtrate to give ethyl α-oxo-α-(6-amino-3-benzothienyl)acetate. Reaction with methoxylamine and subsequent hydrolysis and hydrogenation provides (6-amino-3-benzothienyl)glycine.

reactant | hydrogen | [H][H] | H2
reactant | ethyl α-oxo-α-(6-nitro-3-benzothienyl)acetate | 1.1 g | O=C(C(=O)OCC)C1=CSC2=C1C=CC(=C2)[N+](=O)[O-] | C12H9NO5S
catalyst | palladium on carbon | 1.1 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl α-oxo-α-(6-amino-3-benzothienyl)acetate | O=C(C(=O)OCC)C1=CSC2=C1C=CC(=C2)N | C12H11NO3S
